US09428496B2
1.2 Synthesis of 1-(5-hydroxypentyl)piperazine
Ethyl 4-(5-hydroxypentyl)piperazinecarboxylate (10.87 g, 65.09 mmol), 10% aqueous sodium hydroxide solution (150 mL) and ethanol (150 mL) were placed in a 500 mL round-bottomed flask, and heated under reflux with stirring overnight; the reaction system was cooled down to room temperature, and the solvent was distilled off under reduced pressure, to obtain a pale yellow oil; to the oil, 200 ml of saturated brine was added, followed by extraction with dichloromethane (5×200 mL); the resulting extract was dried with Na2SO4, filtered, and concentrated to obtain a pale yellow oil 9.69 g, yield 86.5% (which was directly used in the next step reaction).

reactant | Ethyl 4-(5-hydroxypentyl)piperazinecarboxylate | 65.09 mmol, 10.87 g | OCCCCCN1CCN(CC1)C(=O)OCC | C12H24N2O3
reactant | sodium hydroxide | 150 mL | [OH-].[Na+]
reactant | ethanol | 150 mL | C(C)O | C2H6O
solvent | brine | 200 ml | [Cl-].[Na+].O
product | 1-(5-hydroxypentyl)piperazine | 9.69 g, yield 86.5% | OCCCCCN1CCNCC1 | C9H20N2O
